US07456293B2
Step B: Preparation of 2-{[2-amino-4-(trifluoromethyl)phenyl]amino}ethanol
2-{[2-nitro-4-(trifluoromethyl)phenyl]amino}ethanol (3.05 g, 12 mmol) was dissolved in THF (10 ml) and hydrogenated at 70 psi. After the removal of catalyst the product was obtained by evaporating the solvent and used for the next step (2.70 g, 100%).

reactant | 2-{[2-nitro-4-(trifluoromethyl)phenyl]amino}ethanol | 12 mmol, 3.05 g | [N+](=O)([O-])C1=C(C=CC(=C1)C(F)(F)F)NCCO | C9H9F3N2O3
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 2-{[2-amino-4-(trifluoromethyl)phenyl]amino}ethanol | NC1=C(C=CC(=C1)C(F)(F)F)NCCO | C9H11F3N2O
